US09079866B2
4-{2-[6-(2-Aminopyrimidin-5-yl)pyridin-3-yl]-5-(trifluoromethyl)phenoxy}pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 4-(2-bromo-5-(trifluoromethyl)phenoxy)pyrimidin-2-amine and 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine. MS (ESI): mass calcd. for C20H14F3N7O, 425.12; m/z found, 426.0 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.89 (s, 2H), 8.67 (dd, J=2.3, 0.8, 1H), 7.99 (d, J=5.6, 1H), 7.95 (dd, J=8.3, 2.3, 1H), 7.81 (dd, J=8.2, 0.9, 1H), 7.76-7.69 (m, 2H), 7.59 (s, 1H), 6.18 (d, J=5.8, 1H).

reactant | 4-(2-bromo-5-(trifluoromethyl)phenoxy)pyrimidin-2-amine | BrC1=C(OC2=NC(=NC=C2)N)C=C(C=C1)C(F)(F)F | C11H7BrF3N3O
reactant | 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C=1C=NC(=NC1)N)C | C15H19BN4O2
product | 4-{2-[6-(2-Aminopyrimidin-5-yl)pyridin-3-yl]-5-(trifluoromethyl)phenoxy}pyrimidin-2-amine | NC1=NC=C(C=N1)C1=CC=C(C=N1)C1=C(OC2=NC(=NC=C2)N)C=C(C=C1)C(F)(F)F | C20H14F3N7O
